US06432982B1
[2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-fluorophenyl]methanone
900 mg (2.20 mmol) of [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-fluoro-4-hydroxyphenyl]methanone was dissolved in 12 mL of DMF and 810 mg (4.4 mmol) of 1-(2-chloroethyl)piperidine hydrochloride was added. To the reaction mixture was added 3.3 g (10 mmol) of Cs2CO3 and heated to reflux for one hour. The reaction mixture was filtered to remove the solids. The solvents were removed by evaporation and the residue was chromatographed on a silica gel column eluted with a linear gradient of beginning with CHCl3 and ending with MeOH-CHCl3 (1:19). The desired fractions were determined by tlc, combined, and evaporated to a solid. This yielded 960 mg of the title compound as a tan amorphous solid.

reactant | [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][3-fluoro-4-hydroxyphenyl]methanone | 2.20 mmol, 900 mg | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C=C2)O)F | C23H17FO4S
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 4.4 mmol, 810 mg | Cl.ClCCN1CCCCC1
reactant | Cs2CO3 | 10 mmol, 3.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-fluorophenyl]methanone | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C=C2)OCCN2CCCCC2)F | C30H30FNO4S
